US07129239B2
Preparation of Intermediate 1-Benzhydryl-3-methylaminoazetidine-3-carbonitrile (I-(29A-7)a)
To a solution of 1-benzhydrylazetidin-3-one (2.13 g, 8.98 mmol) in methanol (17 ml) was added methylamine hydrochloride (1.21 g, 18.0 mmol) and then acetic acid (1.03 ml, 18.0 mmol) at room temperature. After stirring for 5 minutes, solid KCN (1.17 g, 18.0 mmol) was added and the mixture was heated to 60° C. for 19 hours. The reaction was cooled; the solid product was collected by vacuum filtration, rinsed with methanol, and then dried, in vacuo, to afford I-(29A-7)a as a colorless solid (2.50 g, quantitative): +ES MS (M+1) 278.3; 1H NMR (400 MHz, CD2Cl2) δ 7.43 (d, J=7.5 Hz, 4H), 7.29 (t, J=7.5 Hz, 4H), 7.23 (t, J=7.3 Hz, 2H), 4.45 (s, 1H), 3.55 (d, J=7.5 Hz, 2H), 3.15 (d, J=7.1 Hz, 2H), 2.40 (s, 3H).

reactant | 1-benzhydrylazetidin-3-one | 8.98 mmol, 2.13 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)=O | C16H15NO
reactant | methylamine hydrochloride | 18.0 mmol, 1.21 g | Cl.CN
reactant | acetic acid | 18.0 mmol, 1.03 ml | C(C)(=O)O | C2H4O2
reactant | KCN | 18.0 mmol, 1.17 g | [C-]#N.[K+]
solvent | methanol | 17 ml | CO | CH4O
product | 1-Benzhydryl-3-methylaminoazetidine-3-carbonitrile | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)(C#N)NC | C18H19N3
